US03933841
An amount of 35 g of thiophosgene, 250 ml of dioxane and 100 ml of water is placed into a sulphating flask and cooled to 0° to 5°; an addition is then made dropwise, within 30 minutes, of a solution of 61 g of 2-(3'-aminophenoxy)-1-methylbenzimidazole in 200 ml of dioxane. The mixture is stirred for 3 hours at 0° to 5°; it is afterwards further stirred for 15 hours at room temperature. After dilution with 600 ml of water, the precipitate is separated and stirred, for 7 hours at 10°, into a solution of 10 g of thiophosgene in 500 ml of acetone. The product is separated and recrystallized from acetonitrile to obtain 29.3 g of (3'-isothiocyanophenoxy)-1-methylbenzimidazolehydrochloride, M.P. 154° to 158°C.

reactant | thiophosgene | 35 g | C(=S)(Cl)Cl | CCl2S
reactant | water | 100 ml | O | H2O
reactant | 2-(3'-aminophenoxy)-1-methylbenzimidazole | 61 g | NC=1C=C(OC2=NC3=C(N2C)C=CC=C3)C=CC1 | C14H13N3O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | (3'-isothiocyanophenoxy)-1-methylbenzimidazolehydrochloride | 29.3 g | Cl.N(=C=S)C=1C=C(OC2=NC3=C(N2C)C=CC=C3)C=CC1 | InChI=1S/C15H11N3OS.ClH/c1-18-14-8-3-2-7-13(14)17-15(18)19-12-6-4-5-11(9-12)16-10-20;/h2-9H,1H3;1H
